US08937150B2
di-tert-butyl (2S,2′S)-2,2′-[(1,4-dioxobutane-1,4-diyl)bis(6-fluoro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole-5,2-diyl)]dipyrrolidine-1-carboxylate (ACD Name v12)
To a solution of di-tert-butyl (2S,2′S)-2,2′-{[(2E)-1,4-dioxobut-2-ene-1,4-diyl]bis(6-fluoro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole-5,2-diyl)}dipyrrolidine-1-carboxylate (346 mg, 0.36 mmol) in EtOAc (7 mL) was added platinum (3% on carbon) (71 mg, 0.36 mmol) and the solution was stirred under H2 gas at 1 atm for 2 hours. The solution was filtered, washed with EtOAc and the filtrate concentrated to give a residue which was purified by flash chromatography (0-50% EtOAc/hexane) to give the title compound (269 mg, 0.28 mmol, 78%).

reactant | di-tert-butyl (2S,2′S)-2,2′-{[(2E)-1,4-dioxobut-2-ene-1,4-diyl]bis(6-fluoro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole-5,2-diyl)}dipyrrolidine-1-carboxylate | 0.36 mmol, 346 mg | O=C(\C=C\C(=O)C1=CC2=C(N(C(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1F)C1=CC2=C(N(C(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1F | C48H68F2N6O8Si2
solvent | EtOAc | 7 mL | CCOC(=O)C | C4H8O2
catalyst | platinum | 0.36 mmol, 71 mg | [Pt] | Pt
product | di-tert-butyl (2S,2′S)-2,2′-[(1,4-dioxobutane-1,4-diyl)bis(6-fluoro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole-5,2-diyl)]dipyrrolidine-1-carboxylate | 0.28 mmol, 269 mg, 78% | O=C(CCC(=O)C1=CC2=C(N(C(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1F)C1=CC2=C(N(C(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1F | C48H70F2N6O8Si2
